US07544672B2
An ethynylmagnesium bromide solution (0.5 M in THF) was cooled to −78° C. under nitrogen. A solution of 1,3-diacetoxyacetone (0.5 g) in THF (3.0 mL) was added, and the resulting mixture was stirred for 30 min at −78° C., then at 0° C. for 5 min, quenched with 1.0 N aq. HCl (3 mL) and extracted in EtOAc. Evaporation gave crude 2-ethynyl-2-hydroxypropane-1,3-diyl diacetate, contaminated with about 50 mol % of 1,3-dacetoxyacetone. The crude material was used without further purification.

reactant | ethynylmagnesium bromide | 0.5 M | C(#C)[Mg]Br
reactant | 1,3-diacetoxyacetone | 0.5 g | C(C)(=O)OCC(=O)COC(C)=O | C7H10O5
solvent | THF | 3.0 mL | C1CCOC1 | C4H8O
product | 2-ethynyl-2-hydroxypropane-1,3-diyl diacetate | C(C)(=O)OCC(COC(C)=O)(O)C#C | C9H12O5
